US08957070B2
N-[2-(4,5-Dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-2-(methylsulfonyl)benzenesulfonamide
To a solution of triphenylphosphine oxide (4.27 g) in dichloromethane (20 mL) was slowly added trifluoromethanesulfonic anhydride (1.30 mL) at 0° C. The mixture was stirred for 10 min, and 7-{[2-(methylsulfonyl)phenylsulfonyl]amino}-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide (1.78 g) was added. The reaction mixture was stirred at room temperature for 3 hr and concentrated. Saturated aqueous sodium hydrogen carbonate was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography and the title compound (0.69 g, yield 63%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point 211-212° C.

reactant | triphenylphosphine oxide | 4.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 1.30 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 7-{[2-(methylsulfonyl)phenylsulfonyl]amino}-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide | 1.78 g | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)NCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H33N3O5S3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-[2-(4,5-Dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-2-(methylsulfonyl)benzenesulfonamide | 0.69 g, yield 63% | S1C(=NCC1)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C18H17N3O4S3
